US05753679
0.338 g (0.001 mol) of 1-benzyl-piperidin-4-yl 4-formamido-benzoate was dissolved in 10 ml of THF, treated with 4.5 ml (0.0045 mol) of 1M BH3 -THF solution and boiled at reflux for 18 hrs. The reaction mixture was treated with 9 ml of 1N aqueous HCI and stirred at room temperature for 1 hr. The mixture was made basic with sat. sodium carbonate solution, extracted with ethyl acetate and the organic phase was subsequently extracted with sat. sodium chloride solution. It was dried over sodium sulfate and concentrated and the residue was chromatographed over silica gel with ethyl acetate/toluene (1:2). 0.105 g (32%) of 1-benzyl-piperidin-4-yl 4-methylamino-benzoate was obtained as a colorless oil.

reactant | 1-benzyl-piperidin-4-yl 4-formamido-benzoate | 0.001 mol, 0.338 g | C(=O)NC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1 | C20H22N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-benzyl-piperidin-4-yl 4-methylamino-benzoate | 0.105 g, 32% | CNC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1 | C20H24N2O2
